US07932272B2
4-Chloro-cinnoline-6-carboxylic acid methyl ester
Thionyl chloride (5 mL, 68.5 mmol) and N,N-dimethylformamide (3 drops) were added to 4-oxo-1,4-dihydro-cinnoline-6-carboxylic acid methyl ester (212 mg, 1.04 mol), and the solution was stirred for 1.15 hours under reflux. Toluene was added to the reaction mixture, which was then evaporated in vacuo. Ethyl acetate was added to the residue the organic layer was washed with an ice water, dried over anhydrous magnesium sulfate, then, evaporated in vacuo, and the title compound (192 mg, 0.862 mmol, 82.9%) was obtained. This was used in the next reaction without purification.

reactant | Thionyl chloride | 68.5 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 4-oxo-1,4-dihydro-cinnoline-6-carboxylic acid methyl ester | 1.04 mol, 212 mg | COC(=O)C=1C=C2C(C=NNC2=CC1)=O | C10H8N2O3
catalyst | N,N-dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | 4-Chloro-cinnoline-6-carboxylic acid methyl ester | 0.862 mmol, 192 mg, 82.9% | COC(=O)C=1C=C2C(=CN=NC2=CC1)Cl | C10H7ClN2O2
